US07850955B2
10.0 g of isopropyl 2-pyrrolidone-5-carboxylate was dissolved in 58.4 g of toluene, and 13.04 g of lauroyl chloride was added thereto. Further, 6.03 g of triethylamine was dropwise added, and reacted under reflux for 2 hours. Toluene was concentrated under reduced pressure, then the reaction mixture was purified through silica gel column chromatography (hexane/ethyl acetate=5/1 to 3/1) to obtain 3.69 g of isopropyl N-lauroyl-2-pyrrolidone-5-carboxylate.

reactant | isopropyl 2-pyrrolidone-5-carboxylate | 10.0 g | N1C(CCC1C(=O)OC(C)C)=O | C8H13NO3
reactant | lauroyl chloride | 13.04 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | triethylamine | 6.03 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 58.4 g | C1(=CC=CC=C1)C | C7H8
product | isopropyl N-lauroyl-2-pyrrolidone-5-carboxylate | 3.69 g | C(CCCCCCCCCCC)(=O)N1C(CCC1C(=O)OC(C)C)=O | C20H35NO4
